US06777418B2
A mixture of 2.0 g (4.5 mmol) of (E)-methyl-4-[2-(3-bromomethyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate and 0.65 g (9.5 mmol) of pyrazole in 15 mL of N-methyl pyrrolidine was heated at 100°. After 2 hours, the reaction mixture was cooled to room temperature, poured into brine and extracted with ethyl acetate. The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was stirred with hexane and the product was filtered off, washed with hexane and dried to give 1.6 g (83%) of methyl-4-[2-(5,5,8,8-Tetramethyl-3-pyrazol-1-ylmethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate (M+=429).

reactant | (E)-methyl-4-[2-(3-bromomethyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate | 4.5 mmol, 2.0 g | COC(C1=CC=C(C=C1)\C=C\C1=CC=2C(CCC(C2C=C1CBr)(C)C)(C)C)=O | C25H29BrO2
reactant | pyrazole | 9.5 mmol, 0.65 g | N1N=CC=C1 | C3H4N2
solvent | N-methyl pyrrolidine | 15 mL | CN1CCCC1 | C5H11N
solvent | brine | [Cl-].[Na+].O
product | methyl-4-[2-(5,5,8,8-Tetramethyl-3-pyrazol-1-ylmethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate | 1.6 g, 83% | COC(C1=CC=C(C=C1)C=CC1=CC=2C(CCC(C2C=C1CN1N=CC=C1)(C)C)(C)C)=O | C28H32N2O2
